US08865675B2
Synthesis of 5-(Dimethylamino)Pentanoic Acid
To a solution of 5-(dimethylamino)benzyl pentanoate (0.79 g, 33.6 mmol) in anhydrous ethyl acetate (20 mL) under nitrogen at room temperature was added 10% palladium on carbon (250 mg). The solution was stirred vigorously under a hydrogen atmosphere. After 16 hours additional palladium on carbon (100 mg) was added to encourage the reaction, and at 24 hours hydrogen gas was bubbled through the solution. At 40 hours the solution was filtered through celite and concentrated in vacuo to dryness to afford the product as a yellow oil (295 mg, 60.4%).

reactant | 5-(dimethylamino)benzyl pentanoate | 33.6 mmol, 0.79 g | C(CCCC)(=O)OCC1=CC=CC(=C1)N(C)C | C14H21NO2
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 5-(Dimethylamino)Pentanoic Acid | 295 mg, 60.4% | CN(CCCCC(=O)O)C | C7H15NO2
